US05324725
29.89 g of quinoline-2-carboxylic acid were heated under reflux for 51/2 hours in 450 ml of ethanol with the addition of 3.5 ml of sulfuric acid. The reaction mixture was worked up by evaporating it, taking up the residue in water and extracting the mixture with dichloromethane. The organic phase was washed with aqueous sodium bicarbonate solution and then with water until neutral, dried and evaporated. 32.23 g of crude ethyl quinoline-2-carboxylate were obtained as a green oil.

reactant | quinoline-2-carboxylic acid | 29.89 g | N1=C(C=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | sulfuric acid | 3.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 450 ml | C(C)O | C2H6O
product | ethyl quinoline-2-carboxylate | 32.23 g | N1=C(C=CC2=CC=CC=C12)C(=O)OCC | C12H11NO2
